US06583089B1
8-Chloro-3a,4-dihydro-3H-indeno[1,2-c]isoxazol
At room temperature, 37.0 ml of a sodium hypochloride [sic] solution (12.5% of active chlorine) were added dropwise to a solution of 8.4 g (42.9 mmol) of 2-allyl-6-chlorobenzaldehyde oxime in 100 ml of methylene chloride, and a spatula tip of sodium acetate was added. The mixture was stirred at room temperature for 2 hours, the organic phase was separated off, the aqueous phase was extracted with methylene chloride and the combined organic phases were washed with saturated ammonium chloride solution and dried, and the solvent was removed. This gave 7.0 g (94%) of 8-chloro-3a,4-dihydro-3H-indeno[1,2-c]isoxazol in the form of a viscous oil.

reactant | sodium hypochloride | 37.0 ml | Cl[O-].[Na+]
reactant | chlorine | ClCl | Cl2
reactant | 2-allyl-6-chlorobenzaldehyde oxime | 42.9 mmol, 8.4 g | C(C=C)C1=C(C=NO)C(=CC=C1)Cl | C10H10ClNO
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 8-Chloro-3a,4-dihydro-3H-indeno[1,2-c]isoxazol | ClC=1C=CC=C2CC3C(=NOC3)C12 | C10H8ClNO
